US07427613B2
Cyclopropyl-(2-fluoro-5methoxybenzyl)amine
Synthesized according to typical procedure J from 2-fluoro-5-methoxybenzaldehyde and cyclopropylamine.

reactant | 2-fluoro-5-methoxybenzaldehyde | FC1=C(C=O)C=C(C=C1)OC | C8H7FO2
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | Cyclopropyl-(2-fluoro-5methoxybenzyl)amine | C1(CC1)NCC1=C(C=CC(=C1)OC)F | C11H14FNO
